US04455422
2.3 Grams of 6-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-1-propenyl}-3,4-dihydrocarbostyril and 0.2 g of platinum black were suspended in 100 ml of methanol and the suspension was catalytically hydrogenated under 2 to 4 atmospheric pressure of hydrogen gas at a normal temperature. After the catalyst was removed by filtration, the filtrate was dried under a reduced pressure. The residue was recrystallized from isopropanol-diisopropyl ether to obtain 6-{3-[4-(2-methoxypheny)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril in colorless prism-like crystals. Yield: 1.3 g. Melting point: 145°-146° C.

reactant | 6-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-1-propenyl}-3,4-dihydrocarbostyril | COC1=C(C=CC=C1)N1CCN(CC1)CC=CC=1C=C2CCC(NC2=CC1)=O | C23H27N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | platinum black | 0.2 g | [Pt] | Pt
product | 6-{3-[4-(2-methoxypheny)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril | COC1=C(C=CC=C1)N1CCN(CC1)CCCC=1C=C2CCC(NC2=CC1)=O | C23H29N3O2
